US04473498
272 parts of 4-methyl-benzoic acid are dissolved in 750 parts of chlorobenzene at 100° C. and are chlorinated at this temperature by the introduction of elementary chlorine under UV light; the chlorination process is ended when 71 parts of hydrochloric acid have been formed. The reaction mixture is then cooled to about 0° C., with stirring, and the precipitate which has separated out is filtered off, freed from chlorobenzene by being washed several times with low-boiling petroleum ether and dried. 307 parts of 4-(chloromethyl)-benzoic acid with a melting point of 196° to 200° C. are obtained.

reactant | 4-methyl-benzoic acid | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | chlorine | ClCl | Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(chloromethyl)-benzoic acid | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
